US07405299B2
Preparation of 2-(Pyridin-2-yl)-3-(thiophen-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole
Add 3-bromo-2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (Preparation 4, 250 mg, 0.95 mmol) and anhydrous THF (2.5 mL) to a round bottom flask under nitrogen atmosphere. Purge the reaction flask with nitrogen for 10 min. Add tris(dibenzylideneacetone)dipalladium(0) (87 mg, 0.095 mmol) and bis(1,2-bis(diphenylphosphino)ethane) palladium(0) (86 mg, 0.095 mmol) to the reaction flask, purge with nitrogen for 2 min, and then stir at room temperature for 20 min. Add thiophene-2-boronic acid (Maybridge; 120 mg, 0.95 mmol) in DMF (1 mL) to the reaction and stir for 10 min. Add 2M aqueous potassium carbonate (1.11 mL, 2.3 mmol) and heat the reaction mixture to 65° C. Add additional tris(dibenzylideneacetone) dipalladium(0) (87 mg, 0.095 mmol) to the reaction after 1 h, 3 h, and 5 h. Heat the reaction for a total of 20 h, cool to room temperature, and filter through Celite® with chloroform/methanol (250 mL, 1:1 ratio). Concentrate in vacuo and purify by flash column chromatography to provide the title compound (13 mg, 5%) as a pale, yellow solid. MS ESI+ m/e 268 (M+1). 1H NMR (CDCl3) δ 8.80-8.72 (m, 1H), 7.80-7.56 (m, 2H), 7.31-7.20 (m, 2H), 7.12-7.03 (m, 1H), 7.01-6.95 (m, 1H), 4.31-4.19 (m, 2H), 3.11-3.05 (m, 2H), 2.79-2.60 (m, 2H). HPLC: 98.0%, Rt=15.25 min. TLC (SiO2): Rf0.4 (5:95 methanol/dichloromethane).

reactant | 3-bromo-2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 0.95 mmol, 250 mg | BrC1=C2N(N=C1C1=NC=CC=C1)CCC2 | C11H10BrN3
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | thiophene-2-boronic acid | 0.95 mmol, 120 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 2.3 mmol, 2M, 1.11 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.095 mmol, 87 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | bis(1,2-bis(diphenylphosphino)ethane) palladium(0) | 0.095 mmol, 86 mg | [Pd].C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.095 mmol, 87 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 2-(Pyridin-2-yl)-3-(thiophen-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 13 mg, 5% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C=2SC=CC2 | C15H13N3S
